US08754079B2
244.3 4-(2-Cyclopentoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 4-(2-cyclopentoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (59 mg) and 7 M ammonia in MeOH (0.5 ml).

reactant | 4-(2-cyclopentoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 59 mg | C1(CCCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C19H18FN3O3S
reactant | ammonia | 7 M | N | H3N
solvent | MeOH | 0.5 ml | CO | CH4O
product | 4-(2-Cyclopentoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C1(CCCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C19H19FN4O2S
